US04003904
A mixture of 5.69 parts of 2-phenyl-(3-pyridyl)-4-(2-azabicyclo[2.2.2]oct-2-yl)butyronitrile, 1.67 parts of sodium azide, 1.38 parts of ammonium chloride and 0.025 parts of lithium chloride in 30 parts by volume of dimethylformamide was stirred for 12 hours under nitrogen at 120° C. After the reaction time was completed, the material was cooled and filtered. The collected precipitate was washed with dimethylformamide and water. The precipitate was then dissolved in 100 parts by volume of 0.2N NaOH. The resultant solution was filtered. The filtrates were neutralized with dilute hydrochloric acid. The product which separated was recrystallized from ethanol. The procedure afforded 5-[1-phenyl-1-(3-pyridyl)-3-(2-azabicyclo[2.2.2]oct-2-yl)propyl]-1H-tetrazole.

reactant | 2-phenyl-(3-pyridyl)-4-(2-azabicyclo[2.2.2]oct-2-yl)butyronitrile | C1(=CC=CC=C1)C(C#N)(CCN1C2CCC(C1)CC2)C=2C=NC=CC2 | C22H25N3
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | lithium chloride | [Cl-].[Li+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-[1-phenyl-1-(3-pyridyl)-3-(2-azabicyclo[2.2.2]oct-2-yl)propyl]-1H-tetrazole | C1(=CC=CC=C1)C(CCN1C2CCC(C1)CC2)(C=2C=NC=CC2)C2=NN=NN2 | C22H26N6
